US08648099B2
a) 4-{[5-(4-Chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-piperazine-1-carboxylic acid tert-butyl ester
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1018782-82-5) and 4-amino-1-piperazinecarboxylic acid 1,1-dimethylethyl ester (CAN 118753-66-5) as starting materials; MS (EI) 515.2 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | 4-amino-1-piperazinecarboxylic acid 1,1-dimethylethyl ester | CC(C)(C)OC(=O)N1CCN(CC1)N | C9H19N3O2
product | 4-{[5-(4-Chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)NC(=O)C=1C=NC(=C(C1)C1=CC=C(C=C1)Cl)OCC(F)(F)F | C23H26ClF3N4O4
